US06878721B1
N-(5-Ethyl-2-methyl-indan-2-yl)-benzamide
A solution of N-(5-acetyl-2-methyl-indan-2-yl)-benzamide (3.4 g) in ethanol (200 ml) and conc. HCl (2 ml) is stirred under hydrogen in the presence of 10% Pd/C at room temperature for 48 hours. The mixture is filtered through celite and the filtrate is concentrated in vacuo to give the title compound.

reactant | N-(5-acetyl-2-methyl-indan-2-yl)-benzamide | 3.4 g | C(C)(=O)C=1C=C2CC(CC2=CC1)(C)NC(C1=CC=CC=C1)=O | C19H19NO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | HCl | 2 ml | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
product | N-(5-Ethyl-2-methyl-indan-2-yl)-benzamide | C(C)C=1C=C2CC(CC2=CC1)(C)NC(C1=CC=CC=C1)=O | C19H21NO
